US06583321B1
Preparation of 2,2-Dimethylpropionic Acid 5-Bromo-2-hydroxyphenylester
2,2 dimethylpropionic acid 2-hydroxyphenylester (6 g) was dissolved in dichloromethane and bromine (4 ml) was added slowly at 0° C. Then, the blended solution was reacted for 30 minutes at −75° C. After completing the reaction, sodium thiosulfate was added to remove bromine, water was added to dilute, and extracted with ethylacetate. A resulting organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure. As a result, the present compound (2.2 g, productive yield 97%) was obtained as a white solid.

reactant | 2,2 dimethylpropionic acid 2-hydroxyphenylester | 6 g | OC1=C(C=CC=C1)OC(C(C)(C)C)=O | C11H14O3
reactant | bromine | 4 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-Dimethylpropionic Acid 5-Bromo-2-hydroxyphenylester | yield 97% | BrC=1C=CC(=C(C1)OC(C(C)(C)C)=O)O | C11H13BrO3
